US05665271
Preparation of trans-4-(4-(trans-4-(3-fluoro-4-difluoromethoxyphenyl)cyclohexyl)butyl)-1-ethyl-1-silacyclohexane
130 ml (0.13 moles) of a THF solution of 1M of ethylmagnesium bromide was dropped in a mixed solution of 43.3 g (10 mmols) of 1-chloro-4-(4-(trans-4-(3-fluoro-4-difluoromethoxyphenyl)cyclohexyl)butyl)-1-silacyclohexane and 30 ml of THF. The resultant product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was subjected to ordinary aftertreatments, followed by isolation through chromatography to obtain 42.7 g (yield: 87%) of the intended trans isomer product.

reactant | ethylmagnesium bromide | 1M | C(C)[Mg]Br
reactant | 1-chloro-4-(4-(trans-4-(3-fluoro-4-difluoromethoxyphenyl)cyclohexyl)butyl)-1-silacyclohexane | 10 mmols, 43.3 g | Cl[SiH]1CCC(CC1)CCCC[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)OC(F)F)F | C22H32ClF3OSi
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 0.13 moles, 130 ml | C1CCOC1 | C4H8O
product | trans-4-(4-(trans-4-(3-fluoro-4-difluoromethoxyphenyl)cyclohexyl)butyl)-1-ethyl-1-silacyclohexane | yield: 87% | FC=1C=C(C=CC1OC(F)F)[C@@H]1CC[C@H](CC1)CCCC[C@@H]1CC[Si@H](CC1)CC | C24H37F3OSi
